US08389771B2
Sonogashira reaction of the iodide (2,2,2-trifluoro-N-(3-hydroxy-3-(3-iodophenyl)propyl)acetamide) with (2-(but-3-ynyl)phenoxy)(tert-butyl)dimethylsilane yielded N-(3-(3-(4-(2-(tert-butyldimethylsilyloxy)phenyl)but-1-ynyl)phenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide as brown oil. Yield (0.220 g, 41%): 1H NMR (400 MHz, DMSO-d6) δ 9.36 (bs, 1H), 7.26-7.31 (m, 4H), 7.19-7.21 (m, 1H), 7.11 (t, J=6.0 Hz, 1H), 6.96 (t, J=6.0 Hz, 1H), 6.88 (d, J=8.0 Hz, 1H), 5.39 (d, J=4.4 Hz, 1H), 4.53-4.56 (m, 1H), 3.22-3.24 (m, 2H), 2.85 (t, J=7.6 Hz, 2H), 2.65 (t, J=7.6 Hz, 2H), 1.75-1.81 (m, 2H), 1.0 (s, 9H), 0.23 (s, 6H).

reactant | iodide | FC(C(=O)NCCC(C1=CC(=CC=C1)I)O)(F)F | C11H11F3INO2
reactant | (2-(but-3-ynyl)phenoxy)(tert-butyl)dimethylsilane | C(CC#C)C1=C(O[Si](C)(C)C(C)(C)C)C=CC=C1 | C16H24OSi
product | N-(3-(3-(4-(2-(tert-butyldimethylsilyloxy)phenyl)but-1-ynyl)phenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC=C1)CCC#CC=1C=C(C=CC1)C(CCNC(C(F)(F)F)=O)O | C27H34F3NO3Si
